US05536745
a) 3-Bromo-6-hydroxy-4-methyl pyridine
Sodium nitrite (5.44 g, 78.8 mmol) in water (14 ml) was added dropwise to 2-amino-5-bromo-4-methylpyridine (12.83 g, 68.6 mmol) in sulphuric acid (20%) (69 ml) at 0-5° C. After 1 h at 0° C. the solution was heated to reflux for 1 h. The solution was basified to pH 10 with sodium hydroxide solution (40%) and cooled to 5° C. and the precipitated product separated by filtration. Recrystallisation from ethanol gave the title compound (5.97 g, 31%) as white needles (m.p.200°-201° C.); δH (D6 -DMSO) 2.17 (3H, s, CH3), 6.40 (1H, s, 3-H), 7.76 (1H, s, 6-H), 11.58 (1H, s, NH): m/z (E.I.) 189 (M+, 100%), 187 (M+, 97%); (Found: M+, 186.9634. C6H6NOBr requires M, 186.9633).

reactant | Sodium nitrite | 78.8 mmol, 5.44 g | N(=O)[O-].[Na+]
reactant | 2-amino-5-bromo-4-methylpyridine | 68.6 mmol, 12.83 g | NC1=NC=C(C(=C1)C)Br | C6H7BrN2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 14 ml | O | H2O
solvent | sulphuric acid | 69 ml | S(O)(O)(=O)=O | H2O4S
product | 3-Bromo-6-hydroxy-4-methyl pyridine | 5.97 g, 31% | BrC=1C=NC(=CC1C)O | C6H6BrNO
